US03969464
Following the procedure of Example 1 but using 0.506 g. of PGA1, 0.254 ml. of triethylamine, 0.238 ml. of isobutylchloroformate, and 0.327 g. of β-naphthol, there is obtained a crude residue. This residue is subjected to silica gel chromatograhy, eluting with ethyl acetate-hexane (2:3) followed by ethyl acetate-hexane (7:3). The residue obtained by concentration of selected fractions, 0.45 g., is crystallized from ethyl acetate diluted with two volumes of hexane as the title compound, white free-flowing crystals, m.p. 49.0°-50.0° C., having Rf 0.5 (TLC on silica gel in ethyl acetate-hexane (1:1)).

reactant | PGA1 | CCCCC[C@@H](/C=C/[C@H]1C=CC(=O)[C@@H]1CCCCCCC(=O)O)O | C20H32O4
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
